US08183246B2
(2E,6R)-6-Hydroxyhept-2-enoic acid tert.-butyl ester
Add 187.4 ml (187.4 mmol) of a 1 M solution of D113AH in THF dropwise to a solution of 17.87 g (178.5 mmol) (R)-γ-valerolactone [(5R)-5-methyldihydrofuran-2(3H)-one] in 200 ml abs. THF cooled to −78° C. Stir the solution for a further 1 h at −78° C. and then add solution A prepared above. At the end of addition, slowly heat the mixture to RT and stir overnight at RT. Add the reaction mixture to 300 ml ethyl acetate and precipitate with 50 ml concentrated potassium sodium tartrate solution. After phase separation, extract the aqueous phase again with ethyl acetate. Combine the organic phases, wash with satd. sodium chloride solution, dry over magnesium sulphate and concentrate under vacuum. Purify the residue by chromatography on silica gel (eluent: cyclohexane/ethyl acetate 5:1). 32.2 g (90.1% of theor.) of the target product, containing small amounts of the cis-isomer, is obtained.

reactant | (R)-γ-valerolactone | 178.5 mmol, 17.87 g | C1(CC[C@@H](C)O1)=O | C5H8O2
reactant | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
reactant | potassium sodium tartrate | 50 ml | C(=O)([O-])C(O)C(O)C(=O)[O-].[Na+].[K+]
reactant | THF | C1CCOC1 | C4H8O
product | (2E,6R)-6-Hydroxyhept-2-enoic acid tert.-butyl ester | C(C)(C)(C)OC(\C=C\CC[C@@H](C)O)=O | C11H20O3
